US08242175B2
A mixture of 1-[4-(4-acetyl-piperazin-1-yl)-phenyl]-ethanone (prepared following the procedure described in Example 16 STEP A, 533 mg, 2.16 mmol), 4-formylcinnamic acid (381 mg, 2.16 mmol) and 1.7 M KOH (2.54 ml) in EtOH (15 ml) and water (3 ml) was stirred overnight at room temperature. The resulting precipitate was filtered to get 260 mg of (E)-3-(4-{(E)-3-[4-(4-acetyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid as its potassium salt. The mother liquors were acidified with 10% HCl and the resulting green precipitate was filtered to give 240 mg of (E)-3-(4-{(E)-3-[4-(4-acetyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid hydrochloride. The mixture of both, the potassium salt and of the hydrochloric salt, was used in the next step without any further purification.

reactant | 1-[4-(4-acetyl-piperazin-1-yl)-phenyl]-ethanone | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C)=O | C14H18N2O2
reactant | 4-formylcinnamic acid | 2.16 mmol, 381 mg | C(=O)C1=CC=C(C=CC(=O)O)C=C1 | C10H8O3
reactant | KOH | 1.7 M, 2.54 ml | [OH-].[K+]
solvent | EtOH | 15 ml | CCO | C2H6O
solvent | water | 3 ml | O | H2O
product | (E)-3-(4-{(E)-3-[4-(4-acetyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid | 260 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)O)=O | C24H24N2O4
